US07799937B2
Preparation of Dimethylbiguanide Zinc Complex
Dimethylbiguanide (66 mg) was dissolved in 1 mL of anhydrous DMSO, after which 0.88 mL of 1 M potassium t-butoxide in t-butanol was added and the solution stirred for 10 minutes. Zinc chloride in diethyl ether (0.22 mL of 1M solution) was added and the solution stirred for 3 hours. The solution was concentrated in vacuo at 35° C., after which 0.5 mL of ethanol was added and the mixture triturated and transferred to a 2 mL microcentrifuge tube. The product was separated from the liquid by centrifuging at 8,000 rpm for 6 minutes and the supernatant was decanted. The pellet was washed by adding 0.5 mL of ethanol, vortex mixed, centrifuged and the supernatant decanted. The washing procedure was repeated. After an overnight drying under high vacuum the yield was 57 mg of a free flowing white powder. 1H NMR (DMSO): δ 4.90 (s), 4.66 (s), 4.50 (s), 2.80 (s). The large upfield shifts of —NH protons relative to dimethylbiguanide indicate complexation with zinc. A small upfield shift of 0.05 ppm in the dimethyl groups was also observed in the dimethylbiguanide-zinc complex. FIGS. 14 and 15 show the NMR spectra of dimethylbiguanide-zinc and dimethylbiguanide, respectively. The product was further characterized by ICP. Zinc analysis (ICP): Found 8.14%. FTIR data did not indicate presence of a DMSO ligand. NMR and ICP data clearly indicate the formation of a dimethylbiguanide-zinc complex. FIG. 28 represents the biguanide-metal complex prepared. MALDI-ES analysis did not reveal a zinc containing compound.

reactant | Dimethylbiguanide | 66 mg | CN=C(NC(N)=NC)N | C4H11N5
reactant | potassium t-butoxide | 1 M, 0.88 mL | CC(C)([O-])C.[K+]
reactant | Zinc chloride | [Cl-].[Zn+2].[Cl-]
reactant | zinc | [Zn] | Zn
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | t-butanol | C(C)(C)(C)O | C4H10O
solvent | diethyl ether | 1M, 0.22 mL | C(C)OCC | C4H10O
product | Dimethylbiguanide Zinc | [Zn].CN=C(NC(N)=NC)N | InChI=1S/C4H11N5.Zn/c1-7-3(5)9-4(6)8-2;/h1-2H3,(H5,5,6,7,8,9);
